US07700784B2
In another flask, dichloro[1,3-bis(diphenylphosphino)propane]nickel(II) (0.022 g; 0.04 mmol) is suspended in tert-butyl methyl ether (3 mL) and cooled to about 0° C. before a 0.5 M solution of zinc chloride in tetrahydrofuran (0.40 mL; 0.20 mmol) and a solution of 5-(2-chloro-phenyl)-2-(1-methyl-1-phenyl-ethyl )-2H-tetrazole (1.20 g; 4.0 mmol) in tert-butyl methyl ether (1.2 mL) are added. To the vigorously stirred resulting suspension is added at about 0° C. 9.6 mL of the above 0.5 M 4-([1,3]dioxan-2-yl)phenylmagnesium bromide solution (4.8 mmol) over one hour. The resulting dark brown solution is allowed to warm up and further stirred at room temperature for 20 hours. The mixture is cooled to about 0° C., quenched with 10 mL of a 3.8% solution of ammonium chloride in water and diluted with ethyl acetate (25 mL). The aqueous phase is separated and extracted with ethyl acetate (25 mL). The combined organic phases are washed with a 0.5 M solution of sodium hydroxide in water (10 mL) and with a 10% solution of sodium chloride in water (10 mL). The combined organic phases are evaporated in vacuo. A solution of the resulting pale green solid in a small amount of ethyl acetate is filtered and evaporated. The resulting pale green solid is purified by column chromatography on silica gel eluting with a 1:10 mixture of tert-butyl methyl ether and toluene to afford 5-(4′-[1,3]dioxan-2-yl-biphenyl-2-yl)-2-(1-methyl-1-phenyl-ethyl)-2H-tetrazole as colorless crystals.

reactant | tetrahydrofuran | 0.20 mmol, 0.40 mL | O1CCCC1 | C4H8O
reactant | 5-(2-chloro-phenyl)-2-(1-methyl-1-phenyl-ethyl )-2H-tetrazole | 4.0 mmol, 1.20 g | ClC1=C(C=CC=C1)C=1N=NN(N1)C(C)(C1=CC=CC=C1)C | C16H15ClN4
reactant | 4-([1,3]dioxan-2-yl)phenylmagnesium bromide | 4.8 mmol, above 0.5 M | O1C(OCCC1)C1=CC=C(C=C1)[Mg]Br
solvent | tert-butyl methyl ether | 3 mL | COC(C)(C)C | C5H12O
solvent | tert-butyl methyl ether | 1.2 mL | COC(C)(C)C | C5H12O
catalyst | dichloro[1,3-bis(diphenylphosphino)propane]nickel(II) | 0.04 mmol, 0.022 g | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 5-(4′-[1,3]dioxan-2-yl-biphenyl-2-yl)-2-(1-methyl-1-phenyl-ethyl)-2H-tetrazole | O1C(OCCC1)C1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C)(C1=CC=CC=C1)C | C26H26N4O2
